US05612356
7-Isopropoxy-6-isopropyl-1-tetralone
5.4 g of 7-Hydroxy-6-isopropyl-1-tetralone was dissolved in 50 ml of N,N-dimethylformamide, followed by the addition of 7.3 g of potassium carbonate and 4.3 ml of 2-bromopropane. The obtained mixture was stirred for 8 hours under heating, cooled to room temperature by allowing to stand and extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (developer: 5% ethyl acetate/n-hexane) to give 6.0 g of the title compound as a yellow oil.

reactant | 7-Hydroxy-6-isopropyl-1-tetralone | 5.4 g | OC1=C(C=C2CCCC(C2=C1)=O)C(C)C | C13H16O2
reactant | potassium carbonate | 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 4.3 ml | BrC(C)C | C3H7Br
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-Isopropoxy-6-isopropyl-1-tetralone | 6.0 g | C(C)(C)OC1=C(C=C2CCCC(C2=C1)=O)C(C)C | C16H22O2
